US05212287
A method which comprises reacting O-benzyl-L-seryl-L-aspartyl-L-prolyl-L-arginine hydrochloride with N-carbobenzoxy-β-benzyl-L-aspartic acid p-nitrophenyl ester to give N-carbobenzoxy-O-benzyl-L-aspartyl-O-benzyl-L-seryl-L-aspartyl-L-prolyl-L-arginine.

reactant | O-benzyl-L-seryl-L-aspartyl-L-prolyl-L-arginine hydrochloride | Cl.C(C1=CC=CC=C1)OC[C@H](N)C(=O)N[C@@H](CC(O)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1
reactant | N-carbobenzoxy-β-benzyl-L-aspartic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1)=O | C25H22N2O8
product | N-carbobenzoxy-O-benzyl-L-aspartyl-O-benzyl-L-seryl-L-aspartyl-L-prolyl-L-arginine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(O)=O)C(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1 | C44H54N8O13
